US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-6-(cyclopropanecarbonyl-amino)-nicotinamide
The title compound (12 mg, 26%) was prepared analogously to example 7 by coupling of 6-amino-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-nicotinamide with cyclopropanecarbonyl chloride. MS: 457.4 (MH+).

reactant | 6-amino-N-[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-nicotinamide | NC1=NC=C(C(=O)NC2CCN(CC2)CC2=CC(=C(C=C2)Cl)OCC)C=C1 | C20H25ClN4O2
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-6-(cyclopropanecarbonyl-amino)-nicotinamide | 12 mg, 26% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=CN=C(C=C2)NC(=O)C2CC2)=O)C=C1)OCC | C24H29ClN4O3
